US07109364B2
p-nitrophenol (69.55 g, 0.5 mole) was dissolved in 10 N HCl (200 ml) in a 1000 ml flask with heating and then cooled down. To the mixture was added 600 ml potassium chlorate (61.25 g, 0.5 mole) solution, gradually with stirring. Stirring was continued for 1 hour after completion of addition and mixture was left overnight at room temperature. After filtration with vacuuming, the filtrate was washed with distilled water and recrystallized with dilute acetic acid solution to yield pale yellow acicular crystal, 2-chloro4-nitro-phenol (80.2 g, m.p. 110–111° C., yield rate 91%).

reactant | p-nitrophenol | 0.5 mole, 69.55 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | potassium chlorate | 0.5 mole, 600 ml, 61.25 g | Cl(=O)(=O)[O-].[K+]
solvent | HCl | 10 N, 200 ml | Cl | ClH
product | 2-chloro4-nitro-phenol | 80.2 g, 91% | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
